US04859683
To a solution of 5 g (16.8 mmol) of methyl 6-acetylamino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate in 10 ml of methanol is added 10 ml of a 10% aqueous sodium hydroxide solution in a single portion at room temperature. The solution is heated to reflux and maintained for 2 hours. After cooling, methanol is removed in vacuo and the residue is diluted with water. The pH of this solution is adjusted to 7 with 1N HCl. The neutral solution is extracted with CH2Cl2 and the combined organic extracts are dried over MgSO4, filtered and concentrated. Flash chromatography (30% EtOAc/hexanes) provides 6-amino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid.

reactant | methyl 6-acetylamino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate | 16.8 mmol, 5 g | C(C)(=O)NC1=C(C=C(C2=C1CCCCO2)C(=O)OC)Cl | C14H16ClNO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-amino-7-chloro-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylic acid | NC1=C(C=C(C2=C1CCCCO2)C(=O)O)Cl | C11H12ClNO3
